US04238618
Activated zinc (from 63.5 g (1.0 mol) of zinc), prepared in accordance with J.Org.Chem. 29, 2049 (1964), are added in portions to a boiling solution of 119.5 g (0.5 mol) of recrystallised 1,3-diacetyl-4,5-dichloro-imidazolidin-2-one and 8 ml of dimethylformamide in 400 ml of dry diethyl ether and the mixture is heated under reflux until conversion is complete (16 hours). After the reaction solution has cooled, 200 ml of water are added to it, and the mixture is filtered. The filter cake is washed with 3×100 ml of benzene and the organic phases are combined and washed until they give a neutral reaction. Drying over sodium sulphate and evaporation gives 80.0 g (about 95%) of 1,3-diacetyl-4-imidazolin-2-one of melting point 106° C., identical with a sample prepared independently in accordance with J.Amer.Chem. Soc. 54, 3413 (1932).

reactant | 1,3-diacetyl-4,5-dichloro-imidazolidin-2-one | 0.5 mol, 119.5 g | C(C)(=O)N1C(N(C(C1Cl)Cl)C(C)=O)=O | C7H8Cl2N2O3
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | water | 200 ml | O | H2O
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
catalyst | zinc | 1.0 mol, 63.5 g | [Zn] | Zn
catalyst | zinc | 1.0 mol | [Zn] | Zn
product | 1,3-diacetyl-4-imidazolin-2-one | 80.0 g, about 95% | C(C)(=O)N1C(N(C=C1)C(C)=O)=O | C7H8N2O3
